US06900324B2
Synthesis of 5,6-diamino-nicotinamide
44.5 g of 6-amino-5-nitro-nicotinamide (0.24 mol; HPLC: 93% area) were suspended in methanol/water 1:1 (500 mL), 5.0 g of catalyst [Pd(4%)-Ru(1%)/C paste (62% H2O type: 485; Johnson Matthey); type: 485; Johnson Matthey] was added. Hydrogenation was carried out at 5 bar and 30° C. for 5 h. After completion the catalyst was filtered off and washed with methanol/water 1/1 (50 mL). 480 mL of the solvent was distilled off. The resulting suspension was cooled to 20° C. and filtered off. The solid was washed with methanol (20 mL) and TBME (30 mL). After drying (200-10 mbar; 40° C. bath temperature, 16 h) 27.3 g of the title compound (0.18 mol, 73%) were obtained.

reactant | 6-amino-5-nitro-nicotinamide | 0.24 mol, 44.5 g | NC1=NC=C(C(=O)N)C=C1[N+](=O)[O-] | C6H6N4O3
solvent | methanol water | 500 mL | CO.O
product | 5,6-diamino-nicotinamide | 0.18 mol, 27.3 g, 73% | NC=1C(=NC=C(C(=O)N)C1)N | C6H8N4O
